US08633173B2
N-Methyl-N-(2-{2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-yloxymethyl}-phenyl)-methanesulfonamide was prepared from N-[2-(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yloxymethyl)-phenyl]-N-methyl-methanesulfonamide (102.0 mg, 0.2781 mmol) and 4-(4-methyl-piperazin-1-yl)-phenylamine (60.0 mg, 0.314 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (30.0 mg, 0.0549 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a brown foam (0.016 g, 11%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.07 (d, J=6.7 Hz, 1H), 7.74-7.69 (m, 1H), 7.46 (d, J=8.1 Hz, 2H), 7.43-7.38 (m, 2H), 7.34-7.30 (m, 1H), 6.96 (d, J=8.1 Hz, 2H), 6.90 (d, J=7.8 Hz, 1H), 6.73 (t, J=7.3 Hz, 1H), 6.62 (s, 1H), 5.49 (br s, 2H), 3.32 (s, 3H), 3.18-3.13 (m, 4H), 2.99 (s, 3H), 2.62-2.57 (m, 4H), 2.36 (s, 3H). MS=522 (MH)+.

reactant | N-[2-(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yloxymethyl)-phenyl]-N-methyl-methanesulfonamide | 0.2781 mmol, 102.0 mg | ClC1=NN2C(C(=CC=C2)OCC2=C(C=CC=C2)N(S(=O)(=O)C)C)=N1 | C15H15ClN4O3S
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.314 mmol, 60.0 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0549 mmol, 30.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N-Methyl-N-(2-{2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-yloxymethyl}-phenyl)-methanesulfonamide | CN(S(=O)(=O)C)C1=C(C=CC=C1)COC=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)N2CCN(CC2)C | C26H31N7O3S
